US06525070B2
3-(2-Methyl-propane-1-sulfonyl)-benzoic acid
To a suspension of 3-sulfo-benzoic acid (1 g) and potassium carbonate (1.2 g) in dimethylacetamide (10 ml) was added iso-butyl iodide (0.65 ml). The mixture was heated by microwaves (600W) at 150° C. for 15 minutes. The reaction mixture was partitioned between water (100 ml) and ethyl acetate (100 ml), the aqueous layer was separated, acidified to pH 1 with HCl (2N) and extracted with ethyl acetate (100 ml). The extract was evaporated to leave a residue which was purified by flash chromatography (Biotage 12S eluting with ethyl acetate:hexane:acetic acid, 29:70:1) to give the title product as a white solid (0.34 g).

reactant | 3-sulfo-benzoic acid | 1 g | S(=O)(=O)(O)C=1C=C(C(=O)O)C=CC1 | C7H6O5S
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | iso-butyl iodide | 0.65 ml | C(C(C)C)I | C4H9I
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 3-(2-Methyl-propane-1-sulfonyl)-benzoic acid | 0.34 g | CC(CS(=O)(=O)C=1C=C(C(=O)O)C=CC1)C | C11H14O4S
